US05658920
(1) 4-Hydroxy-5-methoxy-8-nitro-1-tetralone
2.0 gm of 5-methoxy-8-nitro-1-tetralone (described in Japanese Patent Laid-open (ko-kai) 279891/1989) and 2.05 gm of N-bromosuccinic imide were dissolved in 50 ml of carbon tetrachloride. After the addition of a catalytic amount of benzoyl peroxide, the mixture was heated under reflux for 4 hours and then cooled to room temperature, followed by the addition of 50 ml of chloroform. The mixture was washed with 10% aqueous solution of sodium hydroxide, water, and saturated brine in this order, and dried over anhydrous sodium sulfate. To the residue obtained by removing the solvent were added 5 ml of tetrahydrofuran, 5 ml of ethanol, 8 ml of water, and 250 mg of calcium carbonate, and the mixture was heated under reflux. A residue was obtained by removing the solvent from the reaction mixture, which, after the addition of 50 ml of water, was extracted with chloroform. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and subjected to silica gel column chromatography using chloroform-ethyl acetate. (4:1) as an eluant to obtain fractions containing the target compound. The fractions were concentrated to produce 1.49 gm of light yellow powder of the title compound.

reactant | 5-methoxy-8-nitro-1-tetralone | 2.0 gm | COC1=C2CCCC(C2=C(C=C1)[N+](=O)[O-])=O | C11H11NO4
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Hydroxy-5-methoxy-8-nitro-1-tetralone | 1.49 gm | OC1CCC(C2=C(C=CC(=C12)OC)[N+](=O)[O-])=O | C11H11NO5
